US09358222B2
3-(4-Chlorophenyl)-2-[1-(4-chlorophenyl)-ethyl]-3-(4-hydroxybutoxy)-2,3-dihydroisoindol-1-one (NU8365)
The named compound was synthesised from 3-(4-chlorophenyl)-2-[1-(4-chlorophenyl)-ethyl]-3-hydroxy-2,3-dihydroisoindol-1-one (498 mg, 1.37 mmol, 1 equiv.) and 1,4-butanediol (616 mg, 6.85 mmol, 5 equiv.) using General Procedure A and obtained as a pale yellow oil (242 mg, 51%). 1H NMR (300 MHz, CDCl3): 7.87-7.83 (m, 1H, C(O)═C═CH), 7.53-7.46 (m, 2H, Ar—H), 7.07-7.03 (m, 9H, Ar—H), 4.41 (q, J=7.2 Hz, 1H, N—CH), 3.70 (m, 2H, HO—CH2), 3.29-3.25 and 3.01-2.95 (m, 2H, OCH2), 1.86 (d, J=7.2 Hz, 3H, CH3), 1.77-1.68 (m, 4H, CH2). 13C NMR (75 MHz, CDCl3): 168.31, 145.26, 141.47, 137.76, 134.79, 133.15, 133.06, 132.84, 130.20, 129.67, 128.75, 128.41, 128.27, 123.71, 123.27, 95.44, 63.35, 62.89, 52.49, 29.96, 26.48, 20.08. m/z (ES): 470 [M+H]+. HPLC: Rt=3.76 min. Anal.: calc. for C26H25Cl2NO3: C, 66.39; H, 5.36; N, 2.98. Found: C, 66.33; H, 5.25; N, 2.46.

reactant | 3-(4-chlorophenyl)-2-[1-(4-chlorophenyl)-ethyl]-3-hydroxy-2,3-dihydroisoindol-1-one | 1.37 mmol, 498 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)C(C)C1=CC=C(C=C1)Cl)O | C22H17Cl2NO2
reactant | 1,4-butanediol | 6.85 mmol, 616 mg, 5 equiv. | C(CCCO)O | C4H10O2
product | 3-(4-Chlorophenyl)-2-[1-(4-chlorophenyl)-ethyl]-3-(4-hydroxybutoxy)-2,3-dihydroisoindol-1-one | 242 mg, 51% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)C(C)C1=CC=C(C=C1)Cl)OCCCCO | C26H25Cl2NO3
